US09102688B2
8-Nitro-6-(trifluoromethoxy)quinoline (Intermediate 34)
In a similar fashion using route 10 general procedure 20, 2-nitro-4-(trifluoromethoxy)aniline (1.0 g, 4.50 mmol), glycerol (1.3 g, 13.96 mmol) and 3-nitrobenzenesulfonic acid sodium salt (1.32 g, 5.85 mmol), gave the title compound (1.1 g, 95%) which was used in the next step without purification.

reactant | 2-nitro-4-(trifluoromethoxy)aniline | 4.50 mmol, 1.0 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
reactant | glycerol | 13.96 mmol, 1.3 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 5.85 mmol, 1.32 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
product | 8-Nitro-6-(trifluoromethoxy)quinoline | 1.1 g, 95% | [N+](=O)([O-])C=1C=C(C=C2C=CC=NC12)OC(F)(F)F | C10H5F3N2O3
